US07470710B2
Description 52: (RS)-2-(Methoxy-methyl-carbamoyl)piperazine-1-carboxylic acid benzyl ester
A mixture of (RS)-2-(methoxy-methyl-carbamoyl)-piperazine-1,4-dicarboxylic acid 1-benzyl ester 4-tert-butyl ester (WO 01/00214) (5 g, 0.012 mol) in dichloromethane (100 ml) and trifluoroacetic acid (20 ml) was heated at 40° C. for 0.5 h, cooled and evaporated. The residual oil was dissolved in dichloromethane (150 ml) and washed with 1M sodium hydroxide (80 ml). The aqueous phase was re-extracted with dichloromethane (2×) and the combined extracts dried (Na2SO4) and the solvent removed in vacuo to give the title compound as an oil (3.6 g, 100%).

reactant | (RS)-2-(methoxy-methyl-carbamoyl)-piperazine-1,4-dicarboxylic acid 1-benzyl ester 4-tert-butyl ester | 0.012 mol, 5 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)C(=O)OCC1=CC=CC=C1)C(N(C)OC)=O | C20H29N3O6
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (RS)-2-(Methoxy-methyl-carbamoyl)piperazine-1-carboxylic acid benzyl ester | 3.6 g, 100% | C(C1=CC=CC=C1)OC(=O)N1C(CNCC1)C(N(C)OC)=O | C15H21N3O4
